* Schematics Netlist *

.EXTERNAL OUTPUT +5V
.EXTERNAL OUTPUT -5V


R_R1         0 $N_0001  1k  
V_V2         +5V 0 DC 5  
V_V3         0 -5V DC 5  
R_R3         $N_0003 $N_0002  47k  
R_R2         $N_0002 $N_0001  100k  
X_U1A         $N_0004 $N_0001 +5V -5V $N_0003 LM324
C_C1         0 $N_0005  10u  
D_D2         $N_0003 $N_0005 D1N4002 
R_R4         $N_0005 0  22k  
V_V1         $N_0004 0  
+SIN 0 20m 20 0 0 0
